US08084448B2
B. N-{2-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]ethyl}-C-cyclohexyl-methanesulfonamide
N-(2-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-ethyl)-C-cyclohexyl-methanesulfonamide (0.106 g, 0.17 mmol) is dissolved in THF (3 mL) and TBAF (0.089 mg, 0.099 mL of 1N in THF, 0.34 mmol) is added. The mixture is refluxed for 30 min and then diluted with 1N HCl and extracted with EtOAc. The combined organic layers are washed with 1N HCl, dried over MgSO4 and evaporated to afford the title compound.

reactant | N-(2-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-ethyl)-C-cyclohexyl-methanesulfonamide | 0.17 mmol, 0.106 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)CCNS(=O)(=O)CC1CCCCC1 | C29H43N3O6S2Si
reactant | TBAF | 0.34 mmol, 1N, 0.099 mL, 0.089 mg | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | HCl | 1N | Cl | ClH
product | N-{2-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]ethyl}-C-cyclohexyl-methanesulfonamide | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)CCNS(=O)(=O)CC1CCCCC1 | C24H31N3O6S2
